US05780472
1-[(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(2,6-dichlorophenyl)piperazine
Phenyl-N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)carbamate and 1-(2,6-dichlorophenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C(=NC(=C(C1)CC)C)OC)=O | C16H18N2O3
reactant | 1-(2,6-dichlorophenyl)piperazine | ClC1=C(C(=CC=C1)Cl)N1CCNCC1 | C10H12Cl2N2
product | 1-[(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(2,6-dichlorophenyl)piperazine | yield: 80% | C(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1Cl)Cl | C20H24Cl2N4O2
